US05328929
The cell growth inhibitory (P388 leukemia) dichloromethane fraction prepared from a 400 kg (wet wt) scaleup recollection (1988) of Spongia sp conducted in the Republic of Maldives was separated by a series of steric exclusion and partition chromatographic steps employing SEPHADEX LH-20 to obtain P388 active fractions reminiscent of spongistatin 1. A careful HPLC sequence using C-8 SILICA GEL (PREPEX and ULTREMEX) and 1:1 methanol water to 5:5:8 methanol-acetonitrile-water afforded 4.34 mg (1.08×10-6 % yield) of amorphous spongistatin 2: mp 140°-141° C.; [α]D +24.5°,(C 0.39, CH3OH); UV (CH3OH, log ε) λ, 220 (4.21), λ, 273 (2.95) nm; IR (film) 3426, 2937, 1736, 1651, 1603, 1381, 1234, 1177, 1086 cm-1, high resolution FABMS m/z 1227.6040 [M+K]+ corresponding to C63H96O21K (calcd mass 1227.6082). In contrast to that of spongistatin 1, no [M-35]+ ion was found. Spongistatin 3 was also obtained (2.69 mg, 6×10-8 % yield) as a colorless and noncrystalline powder; mp 148°-149° C.; [α]D +28.1° (c 0.15, CH3OH); UV (CH3OH, log ε) λ, 226 (3.14), λ268 (2.24) nm; IR (film) 3426, 2934, 1734, 1653, 1591, 1387, 1231, 1173, 1090 cm-1 ; HRFAB ms, m/z 1219.5556 [M+K]+ corresponding to C61H93ClO20K (calcd mass 1219.5584).

reactant | spongistatin 1 | C[C@H]1[C@H]2CCC/C=C\[C@H]3C[C@@H](C[C@]4(C3)C[C@H](C[C@H](O4)CC(=O)[C@H]([C@H]([C@@H](C(=C)C[C@H]5C[C@](C[C@]6(O5)C[C@H](C[C@@H](O6)CC(=O)O[C@@H]7[C@H]([C@H]([C@@H]([C@](O2)(C[C@@H]1O)O)O)O[C@@H]([C@H]7O)CC(=C)C(C)[C@@H](/C=C/C(=C)Cl)O)C)OC(=O)C)(C)O)C)OC(=O)C)C)OC)O | C65H99ClO20
reactant | CH3OH | CO | CH4O
product | Spongistatin 3 | 6×10-8 % yield | C[C@@H]1[C@@H]2CCC/C=C\[C@@H]3C[C@H](C[C@@]4(O3)C[C@@H](CC(O4)CC(=O)[C@H]([C@@H]([C@H](C(=C)C[C@@H]5C[C@@](C[C@@]6(O5)C[C@@H](CC(O6)CC(=O)O[C@@H]7[C@H](C([C@H]([C@@](O2)(C[C@H]1O)O)O)O[C@@H]([C@H]7O)CC(=C)C[C@H](/C=C/C(=C)Cl)O)C)O)(C)O)C)OC(=O)C)C)OC)O | C61H93ClO20
